US09238639B2
E) Methyl 4-((5-chloro-2-fluoro-3-methoxyphenyl)sulfanyl)-3-oxobutanoate
To a mixture of 5-chloro-2-fluoro-3-methoxybenzenethiol (303 mg) and DMF (dry) (12 mL) were added K2CO3 (239 mg) and methyl 4-chloro-3-oxobutanoate (0.204 mL) at 0° C. The mixture was stirred at room temperature for 45 min. The mixture was diluted with water and extracted with EtOAc. The combined organic layer was washed successively with water and brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (402 mg).

reactant | 5-chloro-2-fluoro-3-methoxybenzenethiol | 303 mg | ClC=1C=C(C(=C(C1)S)F)OC | C7H6ClFOS
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 239 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 4-chloro-3-oxobutanoate | 0.204 mL | ClCC(CC(=O)OC)=O | C5H7ClO3
solvent | water | O | H2O
product | Methyl 4-((5-chloro-2-fluoro-3-methoxyphenyl)sulfanyl)-3-oxobutanoate | 402 mg | ClC=1C=C(C(=C(C1)SCC(CC(=O)OC)=O)F)OC | C12H12ClFO4S
